data/mechanism_extracts/OrgLett/10.1021_acs.orglett.9b00867.json
{"doi": "10.1021_acs.orglett.9b00867", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative 1,2-difunctionalization of alkenes (styrenes) with formyloxylation coupled to chlorination, bromination, or trifluoromethylation", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "electrocatalysis_inner_sphere"], "electrochemical_role": "Anodic oxidation of the halide/sulfinate anion (Br-, Cl-, or CF3SO2- giving CF3•) to a halogen/CF3 radical, which adds to the alkene; Cu(I) co-catalyst is also redox-active", "key_intermediates": [{"name": "halogen or CF3 radical (X• or CF3•) from anodic oxidation of X- / CF3SO2-", "smiles": null, "role": "reactive"}, {"name": "benzylic carbon radical from X•/CF3• addition to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic carbocation after further oxidation of C-radical", "smiles": null, "role": "reactive"}, {"name": "formate (HCOO-) nucleophile trapping the benzylic cation to give formyloxy product", "smiles": "[H]C(=O)[O-]", "role": "reactive"}, {"name": "Cu(I)/Cu(II) redox mediator", "smiles": null, "role": "transient"}], "electron_flow": "Halide or trifluoromethanesulfinate is first oxidized at the anode to X• (or CF3•), which adds to the styrene to give a benzylic C-radical; this radical is further oxidized (anode/Cu) to a benzylic cation that is trapped by formate (from HCOOH/H2O) to install the OCHO group, while protons are reduced at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "radical trapping experiments (see SI Scheme 2)", "smiles": null, "purpose": "radical_trap", "observation": "Reaction suppressed/intercepted, supporting involvement of radical intermediates"}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Indicates Br-, Cl-, or CF3SO2- (without Cu(I)) is oxidized first at the anode"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Diastereoselective trans-addition on cyclic alkenes suggests a stepwise radical/cation mechanism rather than concerted. Minor β-chlorinated side products from electron-rich styrenes are attributed to over-oxidation/elimination stabilized by push-pull conjugation. Detailed mechanism schemes are in the Supporting Information (Scheme 3)."}
